US06403595B1
To a solution of 1-[4-(1H-imidazol-1-yl)phenyl]ethanol (280 mg) in dichloromethane (6 ml) was added thionyl chloride (1 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated to give 1-(1-chloroethyl)-4-(1H-imidazol-1-yl)benzene. To a solution of 4-(tert-butoxycarbonyl)-2-piperazinone (300 mg) in DMF (20 ml) was added sodium hydride (57 mg) in oil, and the mixture was stirred at room temperature for 30 minutes. To the mixture was added the above obtained 1-(1-chloroethyl)-4-(1H-imidazol-1-yl)benzene, and the mixture was stirred at room temperature for 15 hours. The reaction solution was concentrated, and to the residue were added ethyl acetate and water. The organic layer was washed with water and brine, dried and concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate) to give colorless amorphous of 4-(tert-butoxycarbonyl)-1-[1-[4-(1H-imidazol-1-yl)phenyl]ethyl]-2-piperazinone.

reactant | 1-[4-(1H-imidazol-1-yl)phenyl]ethanol | 280 mg | N1(C=NC=C1)C1=CC=C(C=C1)C(C)O | C11H12N2O
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-(1-chloroethyl)-4-(1H-imidazol-1-yl)benzene | ClC(C)C1=CC=C(C=C1)N1C=NC=C1 | C11H11ClN2
